US04391731
Analogously to Example 1, 6.16 g of 2-pentyl-1,2,3,4-tetrahydronaphthalene-6-carboxylic acid are converted into the acid chloride and this is reacted with 3.45 g of p-ethoxyphenol in 15 ml of absolute pyridine. There are obtained 8.9 g of crude p-ethoxyphenyl 2-pentyl-1,2,3,4-tetrahydro-6-naphthoate which, for purification, is chromatographed on 230 g of silica gel. Elution with toluene/hexane (1:1) and toluene/hexane (7:3) yields 8.8 g of substance which are recrystallized from acetone/hexane up to constant melting point and clearing point and dried in a high vacuum (0.01 mbar). There are obtained colorless crystals of p-ethoxy-phenyl 2-pentyl-1,2,3,4-tetrahydro-6-naphthalene; m.p. 95.4°-96.2° C., cl.p. 119.0°-119.4° C.

reactant | 2-pentyl-1,2,3,4-tetrahydronaphthalene-6-carboxylic acid | 6.16 g | C(CCCC)C1CC2=CC=C(C=C2CC1)C(=O)O | C16H22O2
reactant | p-ethoxyphenol | 3.45 g | C(C)OC1=CC=C(C=C1)O | C8H10O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | p-ethoxyphenyl 2-pentyl-1,2,3,4-tetrahydro-6-naphthoate | 8.9 g | C(CCCC)C1CC2=CC=C(C=C2CC1)C(=O)OC1=CC=C(C=C1)OCC | C24H30O3
